US08198456B2
A mixture of 15.00 g (51.67 mmol) 4-(3-amino-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile, from Synthetic Example 2, 11.24 mL triethylamine (81.11 mmol), 1.51 g 4-dimethylaminopyridine (12.4 mmol) and 16.91 g di-tert-butyldicarbonate (77.5 mmol) in 756 mL dry tetrahydrofuran was stirred overnight at room temperature. The reaction mixture was partitioned between EtOAc and water and the extracted organic phase washed with saturated aqueous sodium chloride solution, concentrated to about 100 mL rest volume and cooled with stirring in an ice bath. The resulting suspension was filtered and the crude product washed with a small amount of cold EtOAc. The product was dried under vacuum to afford 3-amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester (13.26 g, 65.7%) (Cpd. No. 92, Table 2). 1H-NMR (DMSO-D6, 300 MHz): δ=9.53 (br s, 1H), 7.91 (d, 1H), 7.71 (m, 1H), 7.41 (dd, 1H), 6.34 (br s, 2H), 4.47 (s, 1H), 2.02 (s, 6H), 1.55 (s, 9H) ppm.

reactant | 4-(3-amino-1H-indazol-5-yl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile | 51.67 mmol, 15.00 g | NC1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C16H14N6
reactant | triethylamine | 81.11 mmol, 11.24 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 77.5 mmol, 16.91 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 12.4 mmol, 1.51 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 756 mL | O1CCCC1 | C4H8O
product | 3-amino-5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-1H-indazole-1-carboxylic acid tert-butyl ester | 13.26 g, 65.7% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)N | C21H22N6O2
